US08536165B2
A. 5-Methyl-2-(2,2,2-trifluoroacetamido)benzoic acid
In three bottle neck round flask, over trifluoroacetic anhydride (283.0 mmol, 40 ml), 2-amino-5-methylbenzoic acid (39.69 mmol, 6 g) was added in portions at a temperature between 20° C. and 30° C. The mixture was stirred at room temperature for 2 hours and water was slowly added at a temperature below 30° C. cooling the flask externally with ice. The solid formed was filtered off and dried under vacuum overnight affording 9.51 g (yield 91%).

reactant | trifluoroacetic anhydride | 283.0 mmol, 40 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-amino-5-methylbenzoic acid | 39.69 mmol, 6 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
solvent | water | O | H2O
product | 5-Methyl-2-(2,2,2-trifluoroacetamido)benzoic acid | yield 91% | CC=1C=CC(=C(C(=O)O)C1)NC(C(F)(F)F)=O | C10H8F3NO3
